US07968587B2
3-Hydroxymethyl-4,5-dichloroisothiazole
Add LiBH4 (2.0 M in THF, 10 mL, 20 mmol) to a solution of 4,5-dichloro-isothiazole-3-carboxylic acid methyl ester (2.1 g, 10 mmol) in THF (60 mL). Stir at room temperature for one hour and then cool to 0° C. Carefully quench the reaction mixture with water (10 mL), then saturated aqueous NH4Cl (50 mL). Extract into EtOAc (100 mL), then dry (MgSO4), filter, and concentrate the organics to give 540 mg crude product as an orange syrup. Purify the syrup on silica gel (40 g) using 5-30% EtOAc/hexanes to give 310 mg (17%) of the title compound as a white solid. 1H-NMR (DMSO-d6) δ 5.55 (t, 1H, J=5.9 Hz), 4.52 (d, 2H, J=6.2 Hz).

reactant | LiBH4 | 20 mmol, 2.0 M, 10 mL | [Li+].[BH4-]
reactant | 4,5-dichloro-isothiazole-3-carboxylic acid methyl ester | 10 mmol, 2.1 g | COC(=O)C1=NSC(=C1Cl)Cl | C5H3Cl2NO2S
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 3-Hydroxymethyl-4,5-dichloroisothiazole | 310 mg, 17% | OCC1=NSC(=C1Cl)Cl | C4H3Cl2NOS
